US05686458
Step 1: Preparation of N-(2-Phenylethyl)Fluoroacetamide
To a mixture containing 11.7 g of fluoroacetic acid (0.15M), 27.3 ml of dicyclohexylcarbodiimide(0.17M) and 200 ml of dichloromethane was dropwise added 17 ml of phenethylamine(0.17M), which was stirred for 12 hours. The solids produced were filtered and the filtrate was washed with water, dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel column chromatography to give 11.9 g of the title compound as white solids.

reactant | fluoroacetic acid | 0.15M, 11.7 g | FCC(=O)O | C2H3FO2
reactant | dicyclohexylcarbodiimide | 0.17M, 27.3 ml | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | phenethylamine | 0.17M, 17 ml | C(CC1=CC=CC=C1)N | C8H11N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-(2-Phenylethyl)Fluoroacetamide | 11.9 g | C1(=CC=CC=C1)CCNC(CF)=O | C10H12FNO
